US07119206B2
Add LAH solution (2 mL, 1M/THF) to a stirred solution of [2-(4-fluoro-benzyl)-6-methoxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone (380 mg) in THF (5 mL) at room temperature. Heat the mixture to reflux for 1 h, cool to r.t. and quench with aq. NaHCO3. Dilute the mixture with CH2Cl2 and wash with water and brine, dry over MgSO4, filter and concentrate to afford [2-(4-fluoro-benzyl)-6-methoxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanol. Use the product without further purification.

reactant | LAH | 1M, 2 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | [2-(4-fluoro-benzyl)-6-methoxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | 380 mg | FC1=CC=C(CC2=C(C3=CC=C(C=C3C=C2)OC)C(=O)C2=CC=C(C=C2)OCCN2CCCCC2)C=C1 | C32H32FNO3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | [2-(4-fluoro-benzyl)-6-methoxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanol | FC1=CC=C(CC2=C(C3=CC=C(C=C3C=C2)OC)C(O)C2=CC=C(C=C2)OCCN2CCCCC2)C=C1 | C32H34FNO3
